US06110929
A mixture of 7-(trifluoromethyl)-4-quinolinol (22.7 g, 0.106 mol) and propionic acid (106 mL) was heated to 120° C. Nitric acid (10 mL of 70%) was added dropwise and heating was continued for an additional 2 hours. The reaction mixture was allowed to cool to ambient temperature. The resulting precipitate was isolated by filtration then washed with water and diethyl ether to provide 13.3 g of 3-nitro-7-(trifluoromethyl)-4-quinolinol as an off-white solid.

reactant | 7-(trifluoromethyl)-4-quinolinol | 0.106 mol, 22.7 g | FC(C1=CC=C2C(=CC=NC2=C1)O)(F)F | C10H6F3NO
reactant | propionic acid | 106 mL | C(CC)(=O)O | C3H6O2
reactant | Nitric acid | 10 mL | [N+](=O)(O)[O-] | HNO3
product | 3-nitro-7-(trifluoromethyl)-4-quinolinol | 13.3 g | [N+](=O)([O-])C=1C=NC2=CC(=CC=C2C1O)C(F)(F)F | C10H5F3N2O3
